US04178459
PREPARATION OF N,N-DIETHYL-p-MENTHANE-3-CARBOXAMIDE
Following the procedure of Example 5, p-menthane-3-carboxylic acid (1.84 g.) was reacted with thionyl chloride and the p-menth-3-oyl chloride then reacted with diethylamine (0.74 g.) in the presence of sodium hydroxide (0.4 g.). The product N,N-diethyl-p-menthane-3-carboxamide was recovered.

reactant | p-menthane-3-carboxylic acid | 1.84 g | C1(CC(C(CC1)C(C)C)C(=O)O)C | C11H20O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | p-menth-3-oyl chloride | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | diethylamine | 0.74 g | C(C)NCC | C4H11N
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
product | N,N-DIETHYL-p-MENTHANE-3-CARBOXAMIDE | C(C)N(C(=O)C1CC(CCC1C(C)C)C)CC | C15H29NO
